US06734180B1
Using N-propyl-2-(tert-butoxycarbonylamino)-5-indan carboxamide (22 mg, 0.070 mmol), 4N hydrochloric acid-dioxane (2 ml) and acetic acid (6.0 ml), a similar procedure to Example 24 was carried out to obtain N-propyl-2-amino-5-indan carboxamide hydrochloride. Then using ethanol (1 ml), triethylamine (0.50 ml, 3.6 mmol), and 4-chloro-5-methylthieno[2,3-d]pyrimidine (18 mg, 1.0 mmol), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1 to 1:2) to obtain the title compound (12 mg, 0.033 mmol) having the following physical properties:

reactant | N-propyl-2-(tert-butoxycarbonylamino)-5-indan carboxamide | 0.070 mmol, 22 mg | C(CC)NC(=O)C=1C=C2CC(CC2=CC1)NC(=O)OC(C)(C)C | C18H26N2O3
reactant | hydrochloric acid dioxane | 4N, 2 ml | Cl.O1CCOCC1
solvent | acetic acid | 6.0 ml | C(C)(=O)O | C2H4O2
product | N-propyl-2-amino-5-indan carboxamide hydrochloride | Cl.C(CC)NC(=O)C=1C=C2CC(CC2=CC1)N | InChI=1S/C13H18N2O.ClH/c1-2-5-15-13(16)10-4-3-9-7-12(14)8-11(9)6-10;/h3-4,6,12H,2,5,7-8,14H2,1H3,(H,15,16);1H
